US09196836B2
<Step 2: Synthesis of 2-[3-(9,10-diphenyl-2-anthryl)phenyl]dibenzofuran (abbreviation: 2mDBFPPA)>
In a 50 mL three-neck flask were put 1.2 g (2.4 mmol) of 2-(3-bromophenyl)-9,10-diphenylanthracene, 0.52 g (2.4 mmol) of dibenzofuran-2-boronic acid, and 0.18 g (0.60 mmol) of tri(ortho-tolyl)phosphine. The air in the flask was replaced with nitrogen. To this mixture were added 10 mL of toluene, 3.0 mL of ethanol, and 3.0 mL of an aqueous solution of sodium carbonate (2.0 mol/L). While the pressure was reduced, this mixture was stirred to be degassed. To this mixture was added 27 mg (0.12 mmol) of palladium(II) acetate, and the mixture was stirred at 80° C. for 3 hours. Then, the aqueous layer of the obtained mixture was extracted with toluene, and the toluene solution and the organic layer were combined and washed with saturated brine. The organic layer was dried with magnesium sulfate. Then, this mixture was gravity filtered. The resulting filtrate was concentrated, and the obtained oily substance was purified by silica gel column chromatography to give a yellow oily substance. The chromatography was carried out using a mixed solvent having a 5:1 ratio of hexane to toluene as a developing solvent, whereby an oily substance was obtained. Recrystallization of the oily substance from a mixed solvent of toluene and hexane gave 0.40 g of a yellow powder in 29% yield, which was the substance to be produced.

reactant | 2-(3-bromophenyl)-9,10-diphenylanthracene | 2.4 mmol, 1.2 g | BrC=1C=C(C=CC1)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H21Br
reactant | dibenzofuran-2-boronic acid | 2.4 mmol, 0.52 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | tri(ortho-tolyl)phosphine | 0.60 mmol, 0.18 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium carbonate | 2.0 mol/L | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) acetate | 0.12 mmol, 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(9,10-diphenyl-2-anthryl)phenyl]dibenzofuran | 0.40 g, 29% yield | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C=1C=C(C=CC1)C1=CC2=C(OC3=C2C=CC=C3)C=C1)C1=CC=CC=C1 | C44H28O
